US04958019
Synthesis of 7-amino-3-[(5-hydroxymethyl-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid
In 120 ml of acetonitrile were suspended 9.8 g of 5-hydr- oxymethyl-7-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine and 13.6 g of 7-aminocephalosporanic acid, and 22 ml of boron trifluoride-ethyl ether complex was added to the suspension and the mixture was stirred at 50° C. for 3 hours. After cooling the reaction mixture, 250 ml of water was added thereto and the mixture was adjusted to pH 2 with conc. aqueous ammonia. Precipitated crystal was collected by filtration, washed with water, washed with acetone and then dried to obtain 11.6 g of the title compound.

reactant | 5-hydr- oxymethyl-7-mercapto-2-methyl-s-triazolo[1,5-a]pyrimidine | 9.8 g | OCC1=NC=2N(C(=C1)S)N=C(N2)C | C7H8N4OS
reactant | 7-aminocephalosporanic acid | 13.6 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | water | 250 ml | O | H2O
reactant | ammonia | N | H3N
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 7-amino-3-[(5-hydroxymethyl-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid | 11.6 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)C)CO)C(=O)O)C1=O | C15H16N6O4S2
